US04806557
2-[2-(-(S)-4-Amino-4-benzyloxycarbonylbutanamido)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine
The title compound (0.29 g) was prepared as an oil by the reaction of amlodipine (1.1 g), (S)-4-benzyloxycarbonyl-4-t-butoxycarbonylaminobutanoic acid (1.0 g) (commercially available), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.57 g), 1-hydroxybenzotriazole (0.40 g) and triethylamine (0.30 g) according to method of part (a) of Example 5 followed by treatment of the resulting intermediate in dichloromethane with gaseous hydrogen chloride according to the method of part (b).

reactant | amlodipine | 1.1 g | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
reactant | (S)-4-benzyloxycarbonyl-4-t-butoxycarbonylaminobutanoic acid | 1.0 g | C(C1=CC=CC=C1)OC(=O)[C@H](CCC(=O)O)NC(=O)OC(C)(C)C | C17H23NO6
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.57 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.40 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 0.30 g | C(C)N(CC)CC | C6H15N
product | 2-[2-(-(S)-4-Amino-4-benzyloxycarbonylbutanamido)ethoxymethyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.29 g | N[C@@H](CCC(=O)NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C)C(=O)OCC1=CC=CC=C1 | C32H38ClN3O8
